US06884868B1
To a solution of N-t-butoxycarbonyl-4-allyloxypiperidine (2.95 g) in THF (15 ml) was added 9-borobicyclo[3.3.1]nonane (9-BBN, 0.5M solution in THF) (51.3 ml) under ice-cooling with stirring, and the mixture was stirred at ambient temperature for 4 hours. The reaction mixture was cooled at 0-5° C., and 3M aqueous sodium hydroxide (20.4 ml) and 30% hydrogen peroxide aqueous solution (20.4 ml) were added the reaction mixture at 0-5° C. The mixture was stirred at ambient temperature for 1 hour. To a reaction mixture was added ethyl acetate (100 ml), and the solution was washed successively with saturated aqueous sodium chloride, 1N-hydrochloric acid, saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo. The resulting residue was chromatographed on silica gel (200 ml) eluting with a mixture of dichloromethane and methanol (9:1 v/v). The fractions containing the desired compound were collected and evaporated under reduced pressure to give 4-(3-hydroxypropyloxy)-N-t-butoxycarbonylpiperidine (3.83 g).

reactant | N-t-butoxycarbonyl-4-allyloxypiperidine | 2.95 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OCC=C | C13H23NO3
reactant | nonane | 0.5M, 51.3 ml | CCCCCCCCC | C9H20
reactant | sodium hydroxide | 3M, 20.4 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 20.4 ml | OO | H2O2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 4-(3-hydroxypropyloxy)-N-t-butoxycarbonylpiperidine | 3.83 g | OCCCOC1CCN(CC1)C(=O)OC(C)(C)C | C13H25NO4
